US04374829
Ethyl N-(1(S)-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-prolinate hydrochloride
A solution of 3.0 g of N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-L-proline in 50 ml of absolute ethanol is saturated with HCl gas at 0°. After standing at 0° overnight, the HCl and ethanol was removed under vacuum to afford 3.1 g of an oil which upon freeze-drying gives a white solid. Thin layer chromatography and HPLC indicate only one component. The nmr spectrum indicates two ethyl groups per aromatic ring. The mass spectrum shows a molecular ion at 404 m/e.

reactant | N-[1-(S)-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-L-proline | 3.0 g | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H28N2O5
reactant | HCl | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl N-(1(S)-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-prolinate hydrochloride | 3.1 g | Cl.C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)OCC)CCC1 | InChI=1S/C22H32N2O5.ClH/c1-4-28-21(26)18(14-13-17-10-7-6-8-11-17)23-16(3)20(25)24-15-9-12-19(24)22(27)29-5-2;/h6-8,10-11,16,18-19,23H,4-5,9,12-15H2,1-3H3;1H/t16-,18-,19-;/m0./s1
